US04041048
EXAMPLE 7: 1,2-Dimethyl-1,2,4,5-tetrahydro-3,2-benzoxazepine
To 1.1 ml. of 99 percent formic acid, 1 g. (0.0061 mole) of 1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine and 0.45 ml. of 38 percent formaldehyde were added. After heating the reaction mixture at 60°-70° C. for about 6 hours, the excess of formic acid was distilled off. The residue was alkalinized with sodium carbonate and then extracted several times with diethyl ether. After washing with water and drying, the organic solution was evaporated. The residue was distilled at 60° C./0.1 mm Hg, giving 0.6 g. of 1,2-diemthyl-1,2,4,5-tetrahydro-3,2-benzoxazepine.

reactant | 1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine | 0.0061 mole | CC1NOCCC2=C1C=CC=C2 | C10H13NO
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 1,2-Dimethyl-1,2,4,5-tetrahydro-3,2-benzoxazepine | CC1N(OCCC2=C1C=CC=C2)C | C11H15NO
